US04021542
1-hydrazino-2,3,5-tri-O-benzyl-D-ribose
18.1 g (43 mmoles) of 2,3,5-tri-O-benzyl-D-ribose are dissolved in 18 ml of absolute methanol and, while cooling and stirring 21.5 g (43.0 mmoles) of 100% hydrazine hydrate (dissolved in 20 ml of absolute methanol) are added to the solution. After a few minutes the ice bath is removed and stirring is carried out for 24 hours at room temperature. The excess hydrazine hydrate is drawn off (oil pump) together with the methanol in a rotary evaporator at room temperature. A viscous yellow oil remains which is dried further using an oil pump. Yield: 17.9 g (96%).

reactant | 2,3,5-tri-O-benzyl-D-ribose | 43 mmoles, 18.1 g | C(C1=CC=CC=C1)O[C@@H](C=O)[C@H](OCC1=CC=CC=C1)[C@H](O)COCC1=CC=CC=C1 | C26H28O5
reactant | hydrazine hydrate | 43.0 mmoles, 20 ml, 21.5 g | O.NN
solvent | methanol | 18 ml | CO | CH4O
product | 1-hydrazino-2,3,5-tri-O-benzyl-D-ribose | N(N)C(=O)[C@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@H](O)COCC1=CC=CC=C1 | C26H30N2O5
